US05025025
3-(Trifluoromethylsulfonyloxy)-pyridine is condensed with ethyl m-(trifluoromethanesulfonyloxy)-phenylacetate in the presence of hexamethylditin, lithium chloride and tetrakis-(triphenylphosphine)-palladium to obtain ethyl m-(3-pyridyl)-phenylacetate. The product is alkylated with 1-bromo-4-chlorobutane to obtain the alpha-(4-chlorobutyl)-substituted phenylacetic acid ester. The ester is then reduced to the aldehyde which is condensed with e.g. methyl(triphenylphosphoranylidene)-acetate. The resulting alpha,beta-unsaturated ester is saturated to methyl 8-chloro-4-[m-(3-pyridyl)-phenyl]-octanoate which is converted to methyl 8-amino-4-[m-(3-pyridyl)-phenyl]octanoate according to methodology described herein.

reactant | 3-(Trifluoromethylsulfonyloxy)-pyridine | FC(S(=O)(=O)OC=1C=NC=CC1)(F)F | C6H4F3NO3S
reactant | ethyl m-(trifluoromethanesulfonyloxy)-phenylacetate | FC(S(=O)(=O)OC=1C=C(C=CC1)CC(=O)OCC)(F)F | C11H11F3O5S
reactant | hexamethylditin | C[Sn](C)C.C[Sn](C)C
reactant | lithium chloride | [Cl-].[Li+]
catalyst | tetrakis-(triphenylphosphine)-palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl m-(3-pyridyl)-phenylacetate | N1=CC(=CC=C1)C=1C=C(C=CC1)CC(=O)OCC | C15H15NO2
